US06413982B1
To a solution of 2-phenylquinolinecarboxylic acid (600 mg, 2.4 mmol) in 10 mL of CH2Cl2 containing 1 mL of triethylamine is added BOP (1.3 g, 2.9 mmol) followed by 2-amino-2-phenylbutanamide (500 mg, 2.8 mmol). The reaction mixture is stirred overnight at room temperature. The mixture is diluted with 20 mL of CH2Cl2, then washed with aqueous Na2CO3, aqueous citric acid and brine. After drying over Na2SO4, the solvent is evaporated to afford N-(1-Carbamoyl-1-phenylpropyl)-2-phenyl-4-quinolinecarboxamide (700 mg) as a pale yellow foam.

reactant | 2-phenylquinolinecarboxylic acid | 2.4 mmol, 600 mg | C1(=CC=CC=C1)C1(NC2=CC=CC=C2C=C1)C(=O)O | C16H13NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | BOP | 2.9 mmol, 1.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-amino-2-phenylbutanamide | 2.8 mmol, 500 mg | NC(C(=O)N)(CC)C1=CC=CC=C1 | C10H14N2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(1-Carbamoyl-1-phenylpropyl)-2-phenyl-4-quinolinecarboxamide | 700 mg | C(N)(=O)C(CC)(C1=CC=CC=C1)NC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C26H23N3O2
